US06372746B1
A solution of 1.0 g (6.92 mmol) of 2-chloro-4-methoxypyrimidine, 1.49 g (8,30 mmol) of 1-(2-furylcarbonyl)piperazine and 1.39 g (13.84 mmol) of triethylamine in 20 mL of n-butanol is maintained under gentle reflux conditions overnight. The solvent is evaporated off under reduced pressure and the crude residue is diluted in chloroform and washed in water. The organic phase is dried over NaSO4 and evaporated to dryness to give a crude product which is purified using silica-gel chromatography eluting with ethyl acetate/petroleum ether 70:30 to yield an oil which solidifies when left to stand. The solid is suspended in petroleum ether to yield 1.4 g (4.86 mmol) of 2-[4-(2-furylcarbonyl)-1-piperazinyl]-4-methoxypyrimidine. m.p.=85-86° C.

reactant | 2-chloro-4-methoxypyrimidine | 6.92 mmol, 1.0 g | ClC1=NC=CC(=N1)OC | C5H5ClN2O
reactant | 1-(2-furylcarbonyl)piperazine | 8,30 mmol, 1.49 g | O1C(=CC=C1)C(=O)N1CCNCC1 | C9H12N2O2
reactant | triethylamine | 13.84 mmol, 1.39 g | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
product | 2-[4-(2-furylcarbonyl)-1-piperazinyl]-4-methoxypyrimidine | 4.86 mmol, 1.4 g | O1C(=CC=C1)C(=O)N1CCN(CC1)C1=NC=CC(=N1)OC | C14H16N4O3
